US07932272B2
To a solution of 4-hydroxybenzaldehyde (10 g, 81.9 mmol) in methanol (45 mL) was added Raney nickel (3 g) and 7N aqueous ammonia solution (45 mL), and the solution was stirred under hydrogen atmosphere (1 atm) at room temperature for 21 hours. The reaction solution was filtered through Celite pad to remove the catalyst, the filtrate was concentrated, and 4-aminomethyl-phenol (10 g, quantitatively) was obtained as a pale green solid.

reactant | 4-hydroxybenzaldehyde | 81.9 mmol, 10 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ammonia | 7N, 45 mL | N | H3N
solvent | methanol | 45 mL | CO | CH4O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 4-aminomethyl-phenol | NCC1=CC=C(C=C1)O | C7H9NO
